Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Tetanus / Celexa / Fosamax / Gemfibrozil / Fenofibrate 
/ Lisinopril / Dyazide / latex / venlafaxine / Augmentin / 
nifedipine / losartan / felodipine
 
Attending: ___
 
Chief Complaint:
shortness of breath and chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ with hypertension, ACS with NSTEMI ___ s/p
cath but no stents, and past history of breast cancer in ___ 
who
presents with chest pain and dyspnea on exertion.

Per ED note, 
Discharged home on ___, after a few days developed exertional
dyspnea that has progressively worsened. No resting shortness of
breath but dyspnea developing on walking just 10 steps, taking a
shower / any minor tasks. Has had daily chest pain since
discharge - Chest pain starts midline goes to the back and down
left side, described as pressure and heaviness. It is exertional
and ceases on rest. No orthopnea, cough, hemoptysis. Reports
Nausea, subjective fever/chills, dizziness. Denies vomiting, 
LOC,
changes in urination or bowel movement. Takes baby aspirin and
ibuprofen for fatigue.

- In the ED, initial vitals were:  
Pain ___, T 96.5, HR 54, BP 116/54, RR 16, O2 97% on NC

- Exam was notable for:  
Gen: no acute distress, appears stated age on nasal cannula 2 L
HEENT: NCAT. MMM. EOMI, PERRLA. Oral pharynx without erythema or
exudates. 
Neck: supple, trachea midline. 
Pulm: Normal work of breathing. Lungs CTAB. No w/r/r 
CV: RRR. No m/r/g. No JVD, no peripheral edema. Distal pulses
equal bilaterally
Abd: soft NTND. No r/g/r
Skin: warm, dry, no rashes 
Ext: no edema, clubbing, cyanosis 
Neuro: AA0x3. CN ___ grossly intact, no focal deficits, moving
all extremities
Psych: normal affect and behavior 

- Labs were notable for:  
WBC 11.3, Hb 12.8, Plt 391
Cr 0.9
Trops negative x2
Lactate 2.3 > 2.1 

- Studies were notable for: 
CTA chest showed
1. No evidence of pulmonary embolism or aortic abnormality.
2. Soft tissue density lesion along the left breast with 
multiple
surgical clips consistent with prior lumpectomy.
3. A 3 mm right lower lobe pulmonary nodule.

CXR showed
No acute cardiopulmonary process.
 
- The patient was given: 
___ 20:05 IV Ondansetron 4 mg 
___ 20:05 PO Aspirin 324 mg 
___ 21:27 IV Ketorolac 15 mg 
___ 00:00 IVF  NS 1000 mL 

- Vitals prior to transfer:
T 97.7, HR 62, BP 149/71, RR 20, O2 97% RA
 
On arrival to the floor, she confirms the above history. She 
adds
that this is her third admission for the same symptoms. She says
that she has had chest pain with exertion and worsening dyspnea
on exertion for months now. When she walks up the stairs, she 
has
to sit down because of the dyspnea. After she gets out of the
shower she has to sit down because of dyspnea.

She describes the chest pain as "acute heaviness" and a "sharp
pain" between her shoulder blades that spreads into her left arm
and neck. The chest pain and dyspnea improve when she lies flat
and rests. She takes ibuprofen for the pain. She says her chest
pain also comes on when she presses on her chest. She denies
trauma. She denies orthopnea or PND. Denies fever, chills, 
cough.
Denies abdominal pain, diarrhea, dysuria. Denies rashes. She has
chronic achey joints. She lives near ___, denies any known
tick bites. Only new medication recently was switching from
metoprolol to amlodipine-olmelsartan a few months ago, in ___. 


She reports her first admission as in ___ when she had TTE and
stress that were normal. She then had a recent admission earlier
this month when her troponin was elevated and a cardiac
catheterization showed some stenosis but did not warrant
stenting.

REVIEW OF SYSTEMS:  
==================  
Per HPI, otherwise, 10-point review of systems was within normal
limits.  

 
Past Medical History:
BREAST CANCER                                                   
ANXIETY                                                         
HYPERTENSION                                                    
HYPOTHYROIDISM                                                  
CHEST PAIN                                                      
OSTEOARTHRITIS                                                  
GOUT                                                            
HYPERTRIGLYCERIDEMIA                                            
IRRITABLE BOWEL SYNDROME                                        
LYMPHADENOPATHY                                                 
MIGRAINE HEADACHES                                              
OSTEOPOROSIS                                                    
NEPHROLITHIASIS                                                 
HEARING LOSS                                                    
SKIN CANCERS                                                    
LUNG NODULE                                                     
H/O SQUAMOUS CELL CARCINOMA    

 
Social History:
___
Family History:
Per OMR, there is family history of cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================  
24 HR Data (last updated ___ @ 112)
    Temp: 97.7 (Tm 97.7), BP: 149/71, HR: 62, RR: 20, O2 sat:
97%, Wt: 176.8 lb/80.2 kg  

Constitutional: Older woman in no acute distress
HEENT: eyes anicteric, slightly hard of hearing.
CV: RRR, mild holosystolic murmur, JVP flat.
Resp: Lungs clear to auscultation bilaterally 
GI: Soft nontender nondistended
Ext: No peripheral edema lower extremities.
Neuro: A&O grossly, MAEE, no facial droop

DISCHARGE PHYSICAL EXAM
=======================
24 HR Data (last updated ___ @ 844)
    Temp: 97.9 (Tm 98.6), BP: 139/77 (122-139/65-77), HR: 60
(60-65), RR: 18, O2 sat: 97% (95-97), O2 delivery: RA  
Exam:
Constitutional: Older woman in no acute distress
HEENT: eyes anicteric, slightly hard of hearing.
CV: RRR, mild holosystolic murmur, JVP flat.
Resp: Lungs clear to auscultation bilaterally 
GI: Soft nontender nondistended
Ext: No peripheral edema lower extremities.
Neuro: A&O grossly, MAEE, no facial droop
 
Pertinent Results:
ADMISSION LABS
==============
___ 06:53PM   ___ PTT-25.1 ___
___ 06:53PM   PLT COUNT-391
___ 06:53PM   NEUTS-59.0 ___ MONOS-7.1 EOS-1.7 
BASOS-0.6 IM ___ AbsNeut-6.66* AbsLymp-3.53 AbsMono-0.80 
AbsEos-0.19 AbsBaso-0.07
___ 06:53PM   WBC-11.3* RBC-3.93 HGB-12.8 HCT-36.3 MCV-92 
MCH-32.6* MCHC-35.3 RDW-11.8 RDWSD-40.0
___ 06:53PM   proBNP-112
___ 06:53PM   cTropnT-<0.01
___ 06:53PM   estGFR-Using this
___ 06:53PM   GLUCOSE-90 UREA N-11 CREAT-0.9 SODIUM-140 
POTASSIUM-4.7 CHLORIDE-101 TOTAL CO2-27 ANION GAP-12
___ 07:07PM   LACTATE-2.3*
___ 11:46PM   cTropnT-<0.01
___ 11:50PM   LACTATE-2.1*

IMAGING RESULTS:
================
___ Imaging CHEST (PA & LAT) 
FINDINGS:  
The lungs are clear.  There is no consolidation, effusion, or 
edema.  
Cardiomediastinal silhouette is within normal limits.  Surgical 
clips project over the left anterior chest wall.  Hypertrophic 
changes noted in the spine.   
IMPRESSION:  
No acute cardiopulmonary process. 

___ Imaging CTA CHEST  
FINDINGS:  
HEART AND VASCULATURE: Pulmonary vasculature is well opacified 
to the 
subsegmental level without filling defect to indicate a 
pulmonary embolus. The thoracic aorta is normal in caliber 
without evidence of dissection or 
intramural hematoma.  Heart is mildly enlarged.  No pericardial 
effusion.  The region of the great vessels are normal.  There is 
heavy atherosclerotic calcification of the mitral annulus. 
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar 
lymphadenopathy is present.  No mediastinal mass. 
PLEURAL SPACES: No pleural effusion or pneumothorax. 
LUNGS/AIRWAYS: Mosaic attenuation throughout the lungs either 
due to chronic small airway or small vessel disease.  3 mm right 
lower lobe pulmonary nodule (03:17).  Lungs are clear without 
masses or areas of parenchymal opacification.  The airways are 
patent to the level of the segmental bronchi bilaterally. 
SOFT TISSUES: Visualized portions of the base of the neck show 
no abnormality. There is an area of focal soft tissue with 
multiple surgical clips demonstrated as well as macro 
calcifications within the left breast (series 3, image 121). 
ABDOMEN: Cholecystectomy clips in the right upper quadrant.  
Small hiatal 
hernia.  No acute abdominal findings.  An accessory left hepatic 
artery is 
demonstrated arising from the left gastric artery. 
BONES: No suspicious osseous abnormality is seen.? There is no 
acute fracture. 
IMPRESSION: 
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Soft tissue density lesion along the left breast with 
multiple surgical 
clips consistent with prior lumpectomy. 
3. A 3 mm right lower lobe pulmonary nodule. 
 For incidentally detected single solid pulmonary nodule smaller 
than 6 mm, no CT follow-up is recommended in a low-risk patient, 
and an optional CT in 12 months is recommended in a high-risk 
patient. 

___HEST W/O CONTRAST   
FINDINGS: 
THORACIC INLET: Thyroid is unremarkable.  There are no enlarged 
supraclavicular lymph nodes. 
BREAST AND AXILLA  : There are no enlarged axillary lymph nodes. 
 Patient is status post left breast surgery with mild skin 
thickening overlying the left breast which could be related to 
prior radiation therapy. 
MEDIASTINUM: There no enlarged mediastinal hilar lymph nodes.  
There is 
moderate to severe atherosclerotic calcification involving the 
mitral annulus. There is no pericardial effusion.  The aorta and 
pulmonary arteries are normal in caliber. 
PLEURA: There is no pleural effusion.  There is no pericardial 
effusion. 
LUNG: The 3 mm right lower lobe pulmonary nodule is unchanged.  
No new 
pulmonary nodules on expiratory images there is diffuse mild 
air-trapping 
which could be related to small airway disease.  No evidence of 
honeycombing or bronchial wall thickening 
BONES AND CHEST WALL : Review of bones shows degenerative 
changes involving the thoracic spine  
UPPER ABDOMEN: Limited sections through the upper abdomen shows 
status post cholecystectomy.  No adrenal masses 
IMPRESSION:  
3 mm right lower lobe pulmonary nodule is unchanged. 
Mild diffuse mosaic attenuation expiratory images could be 
related to small airway disease. 
Stable postsurgical changes to the left breast.  No enlarged 
axillary lymph nodes 
NOTIFICATION:  For incidentally detected single solid pulmonary 
nodule smaller than 6 mm, no CT follow-up is recommended in a 
low-risk patient, and an optional CT in 12 months is recommended 
in a high-risk patient. 

DISCHARGE LABS:
===============
___ 06:34AM BLOOD WBC-10.1* RBC-3.76* Hgb-12.3 Hct-34.3 
MCV-91 MCH-32.7* MCHC-35.9 RDW-11.9 RDWSD-39.6 Plt ___
___ 06:34AM BLOOD Glucose-100 UreaN-11 Creat-0.9 Na-143 
K-4.3 Cl-103 HCO3-24 AnGap-16
___ 06:34AM BLOOD Calcium-9.0 Phos-3.9 Mg-1.9
___ 06:48AM BLOOD Lactate-1.9
 
Brief Hospital Course:
SUMMARY: Ms. ___ is a ___ with hypertension, ACS with NSTEMI 
___ s/p cath but no stents, and past history of breast cancer 
in ___ who presents with chest pain and dyspnea on exertion. 
ACS was very unlikely given prolonged chest pain and dyspnea 
with negative troponins and no EKG changes. No evidence of heart 
failure and CTA was negative for PE, CT high res with possible 
small airway disease. No fever, white count or sputum suggestive 
of infection. Her pain was controlled with tramadol and 
acetaminophen, and she was treated with GERD medications to 
control any acid reflux contribution to her chest pain.

===================
Transitional Issues
===================
[] If previous PFTs not done with volumes and DLCO, would 
suggest doing so
[] Can consider CPET if above workup non-diagnostic, defer to 
cardiology/pulmonary
[] Patient provided with phone numbers for ___ 
Cardiology and Pulmonary to consider further workup there, as 
she is currently looking to change cardiac/pulmonary physicians
[] Note that patient has previously listed as PCP ___ MD at 
___, but patient has transitioned to a new PCP but still 
occasionally visits Dr. ___ advised pt to stick to one PCP to 
avoid confusion
[] Follow-up incidental lung nodule found on CT
[] F/u ___ performed inpatient 

====================
Acute Medical Issues
====================
# Chest pain
# Dyspnea
Recent NSTEMI s/p cath with no flow-limiting stenosis, trops 
negative x2 here. Along with history of constant chest pain 
daily for weeks, ACS very unlikely. EKG without ischemic 
changes. No evidence of volume overload on exam, BNP low, CXR 
clear, no orthopnea or PND, making acute heart failure unlikely. 
CTA negative for PE. Bedside u/s in ED showed no pericardial 
effusion and previously has had a negative TTE (except for mild 
MS and mild/moderate AI/MR). She does report occasional 
"heartburn" sx. Afebrile, no cough, mild leukocytosis, less 
concerning for infection. Blood cultures were negative. Her pain 
was treated with acetaminophen and tramadol. She received a CT 
scan of her chest to look for interstitial lung disease, results 
potentially c/w air trapping/small airway disease. Pt reports 
she has had PFTs as o/p that were normal, but it is unclear if 
these were with volumes and DLCO. She was provided with phone 
numbers for a new cardiologist and pulmonologist at ___ 
per her preference as she is currently unsatisfied with o/p 
cardiology/pulmonary she has seen (Sahini and ___, 
respectively). While inpatient, she continued on home 
omeprazole, started ranitidine and tums to treat GERD.

=====================
Chronic Medical Issues
======================
# Hypothyroidism
Continued levothyroxine 125mcg PO daily

# Hypertension
Patient reports she was taken off metoprolol and started on 
amlodipine-olmesartan as o/p. Both medications were continued 
while inpatient. She was listed as having an allergy to 
amlodipine (swelling legs) but since she has been tolerating 
this medication, we discontinued the allergy. 

# GERD
Continued home omeprazole 20mg PO daily.

# Pulmonary nodule: pt reports she has been following this with 
PCP. Advised her to continue to follow up and defer repeat CT 
timing to PCP. 

>30 minutes spent on patient care and coordination on day of 
discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 125 mcg PO DAILY 
2. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
3. Omeprazole 20 mg PO DAILY 
4. amlodipine-olmesartan ___ mg oral DAILY 
5. PARoxetine 20 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Calcium Carbonate 500 mg PO QID:PRN indigestion  
2.  Lidocaine 5% Patch 1 PTCH TD QAM  
3.  Ranitidine 75 mg PO DAILY  
4.  Witch ___ 50% Pad ___SDIR apply to anorectal area 
up to 6 times a day   
5.  amlodipine-olmesartan ___ mg oral DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
8.  Levothyroxine Sodium 125 mcg PO DAILY  
9.  Omeprazole 20 mg PO DAILY  
10.  PARoxetine 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses
==================
Dyspnea
Chest pain

Secondary diagnoses
====================
Lung nodule 
Hearing loss
Hypertriglyceridemia
Hypothyroidism
Hypertension
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

 It was a pleasure taking care of you at the ___ 
___!  

 Why was I admitted to the hospital?  

 - You were admitted because you had trouble breathing and pain 
in your back and chest. 

 What happened while I was in the hospital?  

 -  You were evaluated for causes of trouble breathing and chest 
pain. 

 What should I do after leaving the hospital?  

 -  Please take your medications as listed in discharge summary 
and follow up with your primary care physician, ___ 
cardiology and pulmonology within the next 1 to 2 weeks.

 Thank you for allowing us to be involved in your care, we wish 
you all the best!  

 Sincerely,

 Your ___ Team  
 
Followup Instructions:
___